US04612376
To a solution of 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1,3-dimethyl-4-thioxo-2(1H)-pyrimidinone (1.51 g) in tetrahydrofuran (150 ml) was added methyl iodide (30 ml) and the mixture was refluxed for 90 minutes. The precipitate was added to 2,4,6-trimethylaniline (6 g) and the mixture was heated at 110°-120° C. for 3 hours. The reaction mixture was washed with a mixture of hexane and diisopropyl ether to remove excess 2,4,6-trimethylaniline. The resulting precipitate was collected by filtration and then dissolved in chloroform. The solution was washed with an aqueous solution of sodium bicarbonate, dried over magnesium sulfate and evaporated under reduced pressure to give crude product, which was purified by silica gel column chromatography to give 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1,3-dimethyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone (1.44 g); mp 68°-70° C. Thus obtained compound was recrystallized from a mixture of methanol and water (5:1) to give the desired compound as crystals.

reactant | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1,3-dimethyl-4-thioxo-2(1H)-pyrimidinone | 1.51 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1C)=O)C)=S | C14H16N2O3S
reactant | methyl iodide | 30 ml | CI | CH3I
reactant | 2,4,6-trimethylaniline | 6 g | CC1=C(N)C(=CC(=C1)C)C | C9H13N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-1,3-dimethyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone | 1.44 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1C)=O)C)=NC1=C(C=C(C=C1C)C)C | C23H27N3O3
